US08729263B2
To a solution of 2-(6-((3aR,6aS)-5-(2-((tert-butyldimethylsilyl)oxy)ethyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol (20 mg, 0.039 mmol) in dioxane (2 mL) was added 4N HCl in dioxane (1 mL, 4.00 mmol). The reaction mixture was stirred at RT overnight, then basified with 2N NH3 in MeOH and concentrated. The crude product was purified via preparative HPLC to give an off-white solid 2-(6-((3aR,6aS)-5-(2-hydroxyethyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol (6.5 mg, 0.016 mmol, 41% yield). LCMS Rt=0.87 min [Method Q]; MS (M+1)=393.1. 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.01 (d, J=9.60 Hz, 1H), 7.93 (s, 2H), 7.69 (d, J=8.08 Hz, 1H), 7.08-7.19 (m, 3H), 3.67-3.77 (m, 4H), 3.56 (d, J=11.12 Hz, 2H), 3.11 (br. s., 2H), 2.97-3.05 (m, 2H), 2.72 (t, J=5.81 Hz, 2H), 2.63-2.70 (m, 2H).

reactant | 2-(6-((3aR,6aS)-5-(2-((tert-butyldimethylsilyl)oxy)ethyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol | 0.039 mmol, 20 mg | [Si](C)(C)(C(C)(C)C)OCCN1C[C@@H]2[C@H](C1)CN(C2)C2=CC=C(N=N2)C2=C(C=C(C=C2)C=2C=NNC2)O | C27H38N6O2Si
reactant | HCl | 4N | Cl | ClH
reactant | NH3 | 2N | N | H3N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
solvent | dioxane | 4.00 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | 2-(6-((3aR,6aS)-5-(2-hydroxyethyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol | 0.016 mmol, 6.5 mg, 41% yield | OCCN1C[C@@H]2[C@H](C1)CN(C2)C2=CC=C(N=N2)C2=C(C=C(C=C2)C=2C=NNC2)O | C21H24N6O2
